US09334278B2
To a solution of N-tert-butyl-2-(1-ethyl-1H-pyrazol-4-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (82 mg, 179 μmol) in dichloromethane (2.7 mL) was added trifluoroacetic acid (409 mg, 276 μL, 3.58 mmol) and the mixture stirred at room temperature for 16 h. The reaction mixture was concentrated in vacuo and the residue obtained diluted with dichloromethane (3 mL), methanol (1.5 mL) and ammonium hydroxide (0.4 mL) and stirred at room temperature for 1 h. The reaction mixture was concentrated then purified by chromatography (silica, 15-65% dichloromethane/[10% dichloromethane/methanol/0.5% ammonium hydroxide]) to give N-tert-butyl-2-(1-ethyl-1H-pyrazol-4-ylamino)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (33 mg, 101 μmol, 56%) as a yellow solid. 1H NMR (400 MHz, DMSO-d) δ ppm: 12.16 (s, 1H), 9.06 (s, 1H), 7.90 (d, J=3.3, 1 H), 7.85 (s, 1H), 7.84 (s, 1H), 7.73 (s, 1H), 7.59 (s, 1H), 4.08 (q, J=7.3, 2 H), 1.42 (s, 9H), 1.36 (t, J=7.3, 3 H); MS (EI/CI) m/z: 328.1 [M+H].

reactant | N-tert-butyl-2-(1-ethyl-1H-pyrazol-4-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 179 μmol, 82 mg | C(C)(C)(C)NC(=O)C1=CN(C2=NC=C(N=C21)NC=2C=NN(C2)CC)COCC[Si](C)(C)C | C22H35N7O2Si
reactant | trifluoroacetic acid | 3.58 mmol, 276 μL, 409 mg | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2.7 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | methanol | 1.5 mL | CO | CH4O
solvent | ammonium hydroxide | 0.4 mL | [OH-].[NH4+]
product | N-tert-butyl-2-(1-ethyl-1H-pyrazol-4-ylamino)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 101 μmol, 33 mg, 56% | C(C)(C)(C)NC(=O)C1=CNC2=NC=C(N=C21)NC=2C=NN(C2)CC | C16H21N7O
